US05830965
In an atmosphere of dried argon gas, a given amount of tetramethylethylenediamine (TMEDA) is dissolved in a mixed solvent of cyclohexane and n-hexane having a cyclohexane/n-hexane ratio of 9/1 (V/V). The resultant solution is cooled to and maintained at -10° C. Then, in the atmosphere of dried argon gas, an n-hexane solution of n-butyllithium (n-BuLi) is gradually added to the solution of TMEDA in cyclohexane/n-hexane in an amount such as would provide a TMEDA/n-BuLi molar ratio of 1/4. As a result, a complex to be used as a polymerization catalyst is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | n-hexane | CCCCCC | C6H14
solvent | cyclohexane n-hexane | C1CCCCC1.CCCCCC
product | TMEDA n-BuLi | CN(CCN(C)C)C.C(CCC)[Li] | InChI=1S/C6H16N2.C4H9.Li/c1-7(2)5-6-8(3)4;1-3-4-2;/h5-6H2,1-4H3;1,3-4H2,2H3;
